US04148904
4-Diacetylamino-2-bromothiazole
A solution of 4-acetylamino-2-bromothiazole 10 g, prepared as described in Example 1, in acetic anhydride (100 ml) and pyridine (35 ml) was stirred at 100° C. for 24 hours. The reaction mixture was cooled and the excess acetic anhydride and pyridine removed in vacuo, and the residue was re-evaporated three times with toluene. The residue was purified by column chromatography using silica gel and eluting with chloroform, and recrystallised from hexane to give the title compound (1.2 g) m.p. 63°-65° C. (Found: C, 32.1; H, 2.8; N, 10.6 C7H7BrN2O2S requires C, 32.0; H, 2.7; N, 10.7%)

reactant | 4-acetylamino-2-bromothiazole | 10 g | C(C)(=O)NC=1N=C(SC1)Br | C5H5BrN2OS
reactant | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Diacetylamino-2-bromothiazole | 1.2 g, 10.7% | C(C)(=O)N(C=1N=C(SC1)Br)C(C)=O | C7H7BrN2O2S
